US06653475B2
(1R,2R)-7-Chloro-3-[2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2, 4-triazol-1-yl)propyl]quinazolin-4(3H)-one (UR-9825)
To a solution of (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane (2.46 g, 9.8 mmol, obtained as described in Tasaka et al., Chem.Pharm.Bull. 1993, 41, 1035-1042) in N-methylpyrrolidone (10 mL), 7-chloro-3H-quinazolin-4-one (1.77 g, 9.8 mol) and K2CO3 (1.35 g, 9.8 mmol) were added. The resulting solution was heated at 80° C. for 3 days. The mixture was cooled to room temperature, water was then added and the pH was adjusted to 7. The mixture was extracted with ethyl acetate (4×). The combined organic extracts were washed with water (4×), dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated to a reduced volume and was allowed to crystallize at 0° C. The resulting product was filtered, dried and dissolved in hot ethanol (10 mL/g). The insoluble material was filtered off, and the filtrate was then poured over cold water (120 mL/g of UR-9825) under stirring. The resulting precipitate was filtered and dried in vacuo (50° C.) to give the desired product as a white amorphous powder (3.1 g, 75%).

reactant | (2R,3S)-2-(2,4-difluorophenyl)-3-methyl-2-[(1H-1,2,4-triazol-1-yl)methyl]oxirane | 9.8 mmol, 2.46 g | FC1=C(C=CC(=C1)F)[C@@]1(O[C@H]1C)CN1N=CN=C1 | C12H11F2N3O
reactant | 7-chloro-3H-quinazolin-4-one | 9.8 mol, 1.77 g | ClC1=CC=C2C(NC=NC2=C1)=O | C8H5ClN2O
reactant | K2CO3 | 9.8 mmol, 1.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | (1R,2R)-7-Chloro-3-[2-(2,4-difluorophenyl)-2-hydroxy-1-methyl-3-(1H-1,2, 4-triazol-1-yl)propyl]quinazolin-4(3H)-one | ClC1=CC=C2C(N(C=NC2=C1)[C@@H]([C@@](CN1N=CN=C1)(O)C1=C(C=C(C=C1)F)F)C)=O | C20H16ClF2N5O2
